US07138395B2
Preparation of 5-methoxymorpholine-3,4-dicarboxylic acid 4-tert-butyl ester 3-methyl ester (24):
A solution containing 3-allyloxy-2-tert-butoxycarbonylamino-propionic acid methyl ester (30.0 g, 116 mmol) in 550 mL of 10:1 CH2Cl2/MeOH is cooled to −78° C. and purged with ozone until a blue color persisted (45 min). The solution is then purged with N2 to remove excess ozone and treated with dimethylsulfide (35 mL). The solution is allowed to warm to room temperature overnight and the next morning concentrated in vacuo. The resulting solid is re-dissolved in 400 mL of MeOH and treated with 500 mg of p-toluenesulfonic acid. After stirring for 4 hours, the volume of solvent is reduced to about 100 mL and toluene (250 mL) is added. The solution is re-concentrate in vacuo and purified over silica gel (EtOAc/hexane) to afford 25 g (78%) of the desired product. 1H NMR (CDCl3) δ 5.21 (br s, 0.5H), 5.05 (br s, 0.5H), 4.65–4.45 (m, 2H), 3.98 (dd, J=12.8, 12.5 Hz, 1H), 3.79 (s, 3H), 3.66 (br d, J=11.3 Hz, 1H), 3.56 (dd, J=9.9, 9.9 Hz, 1H), 3.42 (s, 3H), 1.54 (s, 0.5×9H), 1.50 (s, 0.5×9H); MS 276 (M+H)+.

reactant | 3-allyloxy-2-tert-butoxycarbonylamino-propionic acid methyl ester | 116 mmol, 30.0 g | COC(C(COCC=C)NC(=O)OC(C)(C)C)=O | C12H21NO5
reactant | CH2Cl2 MeOH | 550 mL | C(Cl)Cl.CO
product | 5-methoxymorpholine-3,4-dicarboxylic acid 4-tert-butyl ester 3-methyl ester | 25 g, 78% | COC(=O)C1N(C(COC1)OC)C(=O)OC(C)(C)C | C12H21NO6
